US07217730B2
5,8-Dichloro-1-propyl-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-acetic acid
To a solution of 5,8 dichloro-1-propyl-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-acetic acid ethyl ester (1.2 g, 3.24 mmol) in EtOH (35 mL) was added 1 N NaOH (7 mL). The reaction mixture was stirred at 50° C. for 6 hours. The most of EtOH/NaOH was removed under reduced pressure and the resulting mixture was purified on HPLC to yield a white solid 0.730 g (66%). 1H NMR (CDCl3): 300 MHz δ 9.12 (bs, 1H), 7.03 (d, J=8.26 Hz, 1H), 6.96 (d, J=8.26 Hz, 1H), 4.04 (m, 2H), 3.14(m, 2H), 3.06(m, 2H), 2.03 (m, 2H), 1.42 (m, 1H), 1.21(m, 1H), 0.89 (t, J=7.34 Hz, 3H).

reactant | 5,8 dichloro-1-propyl-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-acetic acid ethyl ester | 3.24 mmol, 1.2 g | C(C)OC(CC1(OCCC2=C1NC1=C(C=CC(=C21)Cl)Cl)CCC)=O | C18H21Cl2NO3
reactant | NaOH | 1 N, 7 mL | [OH-].[Na+]
solvent | EtOH | 35 mL | CCO | C2H6O
product | 5,8-Dichloro-1-propyl-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-acetic acid | 0.730 g, 66% | ClC1=C2C3=C(NC2=C(C=C1)Cl)C(OCC3)(CC(=O)O)CCC | C16H17Cl2NO3
